US05621140
Second resolution. The racemic ibuprofen from the previous step and fresh racemic ibuprofen (5.8 g) were dissolved in toluene (150 mL), and water (0.5 mL) and N-octyl-D-glucamine (12.12 g, 41 mmol) were added to the solution. This mixture was heated to 75° C., forming a clear solution, and the solution cooled to 20° C. over 4 hours. The resulting precipitate was recovered by filtration, washed with toluene (50 mL), and dried to give (S)-ibuprofen N-octyl-D-glucamine salt (13.85 g). The (S)-ibuprofen N-octyl-D-glucamine salt was stirred with water (50 mL) and KOH (2.2 g) at 45° C. for one hour, and the mixture then cooled to 15° C. The resulting precipitate was recovered by filtration, washed with water (50 mL), and dried to give N-octyl-D-glucamine (7.3 g) for recycle. The aqueous filtrate from recovery of the N-octyl-D-glucamine was acidified with 3N HCl to pH<1. The resulting precipitate was recovered by filtration to give (S)-ibuprofen (5.35 g, 58% yield, MR=50.5°-51° C., 99% ee).

reactant | (S)-ibuprofen N-octyl-D-glucamine salt | C(CCCCCCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.OC(=O)[C@@H](C)C1=CC=C(CC(C)C)C=C1
reactant | KOH | 2.2 g | [OH-].[K+]
solvent | water | 50 mL | O | H2O
product | N-octyl-D-glucamine | 7.3 g | C(CCCCCCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C14H31NO5
